US07541372B2
2-(2-Methoxy-4-[1,2,3]triazol-2-yl-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 26, 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.57 mmol) was converted using 1H-1,2,3-triazole (197 mg, 2.84 mmol) and potassium carbonate (47 mg, 0.34 mmol) instead of thiomorpholine to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 20:60:20, 34 mg, 15%) which was obtained as a white solid. MS: m/e=401.2 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.57 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | 1H-1,2,3-triazole | 2.84 mmol, 197 mg | N1N=NC=C1 | C2H3N3
reactant | potassium carbonate | 0.34 mmol, 47 mg | C([O-])([O-])=O.[K+].[K+]
product | 2-(2-Methoxy-4-[1,2,3]triazol-2-yl-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 34 mg, 15% | COC1=C(C=CC(=C1)N1N=CC=N1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C21H16N6O3
